US04163112
Preparation of O-[4-(2,2-Dimethoxyethoxy)phenyl] N-3-Allylphenylcarbamate
4-(2,2-Dimethoxyethoxy)phenol (0.05 mole) dissolved in benzene (10 ml) is charged into a glass reaction flask equipped with a mechanical stirrer. 3-Allylphenyl isocyanate (0.06 mole) and triethylamine (3 drops) are then added, and the resulting mixture is stirred at room temperature for a period of about 6 hours. The mixture is stripped of solvent and unreacted isocyanate to yield the desired product O-[4-(2,2-dimethoxyethoxy)phenyl] N-3-allylphenylcarbamate as the residue.

reactant | 4-(2,2-Dimethoxyethoxy)phenol | 0.05 mole | COC(COC1=CC=C(C=C1)O)OC | C10H14O4
reactant | 3-Allylphenyl isocyanate | 0.06 mole | C(C=C)C=1C=C(C=CC1)N=C=O | C10H9NO
reactant | isocyanate | [N-]=C=O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | O-[4-(2,2-dimethoxyethoxy)phenyl] N-3-allylphenylcarbamate | C(C=C)C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)OCC(OC)OC)=O | C20H23NO5
